US06410534B1
Step K: N-(7-Benzyloxynaphthalen-1-yl)(tert-butoxycarbonylamino)acetamide
To N-(tert-butoxycarbonyl)glycine (527 mg, 3.01 mmol) in dry CH2Cl2 (5 mL) under argon were added PYBOP (1.65 g, 3.16 mmol), 1-amino-7-benzyloxynaphthalene, as described above in Step J, (750 mg, 3.01 mmol), and N,N-diisopropylethylamine (0.55 mL, 3.16 mmol). The reaction mixture was stirred for 18 hrs, then partitioned between CH2Cl2 (200 mL) and 10% aqueous citric acid (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was sufficiently pure for use in the next reaction.

reactant | N-(tert-butoxycarbonyl)glycine | 3.01 mmol, 527 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | PYBOP | 3.16 mmol, 1.65 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 1-amino-7-benzyloxynaphthalene | NC1=CC=CC2=CC=C(C=C12)OCC1=CC=CC=C1 | C17H15NO
reactant | N,N-diisopropylethylamine | 3.16 mmol, 0.55 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(7-Benzyloxynaphthalen-1-yl)(tert-butoxycarbonylamino)acetamide | C(C1=CC=CC=C1)OC1=CC=C2C=CC=C(C2=C1)NC(CNC(=O)OC(C)(C)C)=O | C24H26N2O4
